US07247625B2
To a stirred suspension of 4-(4-chlorophenyl)-4-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one (5.15 g, 18.80 mmol) in a mixture of glacial acetic acid (15 mL) and concentrated sulfuric acid (15 mL) was slowly added concentrated nitric acid (3 mL). After 10 minutes the reaction was poured over ice and brine (100 mL) and filtered. Trituration of the solid with ethyl acetate/ether gave 4-(4-chlorophenyl)-4-methyl-6-nitro-1,4-dihydro-2H-3,1-benzoxazin-2-one as a tan solid (1.92 g, 32%). 1H NMR (DMSO-d6): δ 11.04 (s, 1H), 8.29 (m, 2H), 7.47 (dd, J=6.6, 2.0 Hz, 2H), 7.32 (dd, J=6.7, 2.1 Hz, 2H), 7.13 (d, J=9.5 Hz, 1H), 2.06 (s, 3H); MS (ESI) m/z [M+H]+(319/321); MS (ESI) m/z [M−H]− (317/319); Anal. calcd for C15H11ClN2O4: C, 56.53; H, 3.48; N, 8.79. Found: C, 55.43; H, 3.37; N, 8.78.

reactant | 4-(4-chlorophenyl)-4-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | 18.80 mmol, 5.15 g | ClC1=CC=C(C=C1)C1(OC(NC2=C1C=CC=C2)=O)C | C15H12ClNO2
reactant | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 15 mL | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 3 mL | [N+](=O)(O)[O-] | HNO3
solvent | brine | 100 mL | [Cl-].[Na+].O
product | 4-(4-chlorophenyl)-4-methyl-6-nitro-1,4-dihydro-2H-3,1-benzoxazin-2-one | 1.92 g, 32% | ClC1=CC=C(C=C1)C1(OC(NC2=C1C=C(C=C2)[N+](=O)[O-])=O)C | C15H11ClN2O4
